US04025647
A solution of 16.8 g. of bromine in 105 g. of glacial acetic acid is added during 80 minutes to a stirred solution of 20.8 g. of 6-methyl-3-t-butylsalicylic acid in 190 g. of glacial acetic acid, and the mixture is stirred at laboratory temperature for a further 1 hour and then poured into 500 ml. of an ice-water mixture. The mixture is filtered and there is thus obtained as solid residue 5-bromo-6-methyl-3-t-butylsalicylic acid, m.p. 212°-214° C.

reactant | bromine | BrBr | Br2
reactant | 6-methyl-3-t-butylsalicylic acid | CC=1C=CC(=C(C1C(=O)O)O)C(C)(C)C | C12H16O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-bromo-6-methyl-3-t-butylsalicylic acid | BrC1=CC(=C(C(C(=O)O)=C1C)O)C(C)(C)C | C12H15BrO3
